US04337354
Step G. 2-Allyl-6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one.
6.7 -Dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one(63.5 gm., 0.274 mole) is dissolved in a mixture of dry tert.-butyl alcohol (500 ml.) and dry benzene (1.5 liters). The solution is refluxed and potassium tert.-butoxide (46 gm., 0.301 mole) in dry tert.-butyl alcohol (1 liter) is added as rapidly as possible. The solution is refluxed for another 1/2 hour, cooled to 20° C., stirred and treated with allyl bromide (36 gm., 0.301 mole). The mixture is stirred and refluxed for 4 hours, cooled and treated with water (250 ml.). The crude 2-allyl-6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one is separated by filtration, washed with water, dried and recrystallized from a mixture of benzene and hexane.

reactant | 6.7 -Dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one | 0.274 mole, 63.5 gm | ClC1=C(C=C2CCC(C2=C1Cl)=O)OC | C10H8Cl2O2
reactant | potassium tert.-butoxide | 0.301 mole, 46 gm | CC(C)([O-])C.[K+]
reactant | allyl bromide | 0.301 mole, 36 gm | C(C=C)Br | C3H5Br
reactant | water | 250 ml | O | H2O
solvent | tert.-butyl alcohol | 500 ml | C(C)(C)(C)O | C4H10O
solvent | benzene | 1.5 liters | C1=CC=CC=C1 | C6H6
solvent | tert.-butyl alcohol | 1 liter | C(C)(C)(C)O | C4H10O
product | 2-Allyl-6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one | C(C=C)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C13H12Cl2O2
